US06833378B2
4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinic acid
The title compound was prepared by heating 2-chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid and trimethylaniline in the presence of potassium carbonate and copper in DMF. The desired product was isolated by silica gel column chromatography using 5% methanol in chloroform as solvent to give a tan solid, mp. 130-135° C.

reactant | 2-chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid | ClC1=C(C(=O)O)C(=CC(=N1)C)NC(CC)CC | C12H17ClN2O2
reactant | trimethylaniline | CC1=C(N(C)C)C=CC=C1 | C9H13N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | copper | [Cu] | Cu
product | 4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinic acid | C(C)C(CC)NC1=CC(=NC(=C1C(=O)O)NC1=C(C=C(C=C1C)C)C)C | C21H29N3O2
